US07297713B2
A mixture of cyanogen bromide (5.0 g, 47 mmol) and 4-bromo-2-methylaniline (Aldrich Chemical Company) (19.15 g, 103.4 mmol) in diethylether (150 mL) was stirred for 3 days under nitrogen atmosphere. The reaction was filtered, and the filtrate was concentrated in vacuo at room temperature to give 4-bromophenylcyanamide (8.5 g, 92%) as an off white solid. HRMS: calcd for C8H7BrN2, 209.97926; found (EI, M+), 209.9788.

reactant | cyanogen bromide | 47 mmol, 5.0 g | N#CBr | CBrN
reactant | 4-bromo-2-methylaniline | 103.4 mmol, 19.15 g | BrC1=CC(=C(N)C=C1)C | C7H8BrN
solvent | diethylether | 150 mL | C(C)OCC | C4H10O
product | 4-bromophenylcyanamide | 8.5 g, 92% | BrC1=CC=C(C=C1)NC#N | C7H5BrN2
